US08383827B2
A 40 mL scintillation vial was charged with 1,1-dioxo-isothiazolidine (115 mg, 0.949 mmol) and DMF (3 mL). The reaction mixture was cooled to 0° C. and sodium hydride (95 mg, 2.373 mmol) was added. The reaction was left to stir at room temperature for 20 min followed by the addition of 3-bromo-5-(chloromethyl)pyridine hydrochloride (277 mg, 1.139 mmol). The reaction was stirred at room temperature for 3 h, then quenched with water and extracted with ethyl acetate. The organic layer was washed with water twice, dried over sodium sulfate and concentrated in vacuo. The crude was purified by silica gel flash chromatography using heptane-ethyl acetate (60-40, v/v) to afford 3-bromo-5-(1,1-dioxo-isothiazolidin-2-ylmethyl)-pyridine as a colorless oil. MS (ESI) m/z 292.9 (M+H)+

reactant | 1,1-dioxo-isothiazolidine | 0.949 mmol, 115 mg | O=S1(NCCC1)=O | C3H7NO2S
reactant | sodium hydride | 2.373 mmol, 95 mg | [H-].[Na+]
reactant | 3-bromo-5-(chloromethyl)pyridine hydrochloride | 1.139 mmol, 277 mg | Cl.BrC=1C=NC=C(C1)CCl
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-bromo-5-(1,1-dioxo-isothiazolidin-2-ylmethyl)-pyridine | BrC=1C=NC=C(C1)CN1S(CCC1)(=O)=O | C9H11BrN2O2S
